US05472984
A mixture of 500 mg of 2-[(imidazol-4-yl)methoxy]-1-phenylethanol, 1.1 ml of pyridine, 1.1 ml of triethylamine and 1.1 ml of acetic anhydride was stirred for 1 hour at 100° C. The reaction mixture was cooled to room temperature. The solvent was removed by distillation under reduced pressure. To the residue were added 1.1 ml of methyl iodide and 5 ml of acetonitrile. The mixture was allowed to stand at room temperature for 24 hours. The solvent was removed by distillation under reduced pressure. To the residue thus obtained were added 4 ml of ethanol and 6.8 ml of a 5% aqueous sodium hydroxide solution. The resulting mixture was stirred at room temperature for 6 hour. The solvent was removed by distillation under reduced pressure. To the residue thus obtained were added 30 ml of chloroform and 20 ml of water. The organic layer was separated, washed with water, and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The resulting oily product was purified by column chromatography (eluant: chloroform/ethanol=10/1). Diisopropyl ether was added to the resulting white crystals, and the resulting mixture was filtered to obtain 450 mg of 2-[(1-methylimidazol-5-yl)methoxy]-1-phenylethanol (compound No. 214).

reactant | 2-[(imidazol-4-yl)methoxy]-1-phenylethanol | 500 mg | N1C=NC(=C1)COCC(O)C1=CC=CC=C1 | C12H14N2O2
reactant | pyridine | 1.1 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 1.1 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | triethylamine | 1.1 ml | C(C)N(CC)CC | C6H15N
product | 2-[(1-methylimidazol-5-yl)methoxy]-1-phenylethanol | 450 mg | CN1C=NC=C1COCC(O)C1=CC=CC=C1 | C13H16N2O2
